US05128355
Part A: Preparation of Methyl 1-[ 4-(N-benzylamino)-benzyl]-2-butyl-4-chloroimidazole-5-acetate
A mixture of methyl 1-(4-aminobenzyl)-2-butyl-4-chloroimidazole-5-acetate (1.00 g, 3.0 mmol, 1 eq), benzaldehyde (0.30 mL, 3.0 mmol, 1 eq), 4A° powdered molecular sieves (enough to make a slurry) and 40 mL THF was stirred overnight. The next day, more benzaldehyde (0.2 mL) and acidic Al2O3 (activity 1, 1 g) were added and the slurry stirred another 24 hours. The solids were filtered and the solvent from the filtrate removed in vacuo. The residue was dissolved in methanol (10 mL) and sodium cyanoborohydride was added (0.19 g, 3.0 mmol, 1 eq). The mixture was stirred for 24 hours, after which the solvent was removed in vacuo to yield a green oil which was flash chromatographed over silica gel in 70:30 hexane/ethyl acetate to give 740 mg of product as an oil. NMR (200 MHz, CDCl3) δ 7.42-7.24 (m, 5H); 6.74 (d, 2H, J=7Hz); 6.56 (d, 2H, J=7Hz); 4.98 (s, 2H); 4.31 (s, 2H); 3.61 (s, 3H); 3.48 (s, 2H); 260 (t, 2H, J=7Hz); 1.67 (t of t, 2H, J=7,7Hz); 1.35 (t of q, 2H, J=7,7Hz); 0.89 (t, 3H, J=7Hz). Mass Calcd. for C24H28ClN3O2 :425.1868. Found: 425.1853.

reactant | methyl 1-(4-aminobenzyl)-2-butyl-4-chloroimidazole-5-acetate | 3.0 mmol, 1.00 g, 1 eq | NC1=CC=C(CN2C(=NC(=C2CC(=O)OC)Cl)CCCC)C=C1 | C17H22ClN3O2
reactant | benzaldehyde | 3.0 mmol, 0.30 mL, 1 eq | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzaldehyde | 0.2 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Methyl 1-[ 4-(N-benzylamino)-benzyl]-2-butyl-4-chloroimidazole-5-acetate | 740 mg | C(C1=CC=CC=C1)NC1=CC=C(CN2C(=NC(=C2CC(=O)OC)Cl)CCCC)C=C1 | C24H28ClN3O2
